US06939867B2
Preparation of [2-(tert-Butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl]-(2-hydroxy-ethyl)-carbamic acid tert-butyl ester (I-3b):
To a stirred solution of 2-[2-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethylamino]-ethanol (1.6 g) in THF (15 mL) was added di-tert-butyl dicarbonate (1.6 g). After 1.5 h, the reaction solution was concentrated in vacuo and chromatographed on a Biotage® F40M column (gradient of 10% to 20% ethyl acetate/hexanes) to afford 1.8 g of the title compound (I-1b) as an oil.

reactant | 2-[2-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethylamino]-ethanol | 1.6 g | C(C)(C)(C)[Si](OC(CNCCO)C=1C=NC(=CC1)Cl)(C)C | C15H27ClN2O2Si
reactant | di-tert-butyl dicarbonate | 1.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [2-(tert-Butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl]-(2-hydroxy-ethyl)-carbamic acid tert-butyl ester | 1.8 g | C(C)(C)(C)OC(N(CCO)CC(C=1C=NC(=CC1)Cl)O[Si](C)(C)C(C)(C)C)=O | C20H35ClN2O4Si
